US06251921B1
Preparation of 3-[3-Bromo-4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-6-hydroxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene Dioxalate Hydrate
Sodium hydride (95 mg of a 60% suspension in mineral oil; 2.4 mmol) was suspended in 2 mL of DMF in a flame-dried, argon-filled flask and stirred for about 5 min. 1-(2-Hydroxyethyl)pyrrolidine (0.23 mL; 2.0 mmol) was added and the mixture was stirred for 15 min. 3-Bromo-4-fluorophenyl 6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl ketone in 3 mL of DMF was then added. The mixture was stirred for 4 h at room temperature, then poured into water (25 mL), and extracted with EtOAc (4×25 mL). The combined organics were washed with brine and dried over magnesium sulfate. The title compound (135 mg; 10% yield) was isolated by flash chromatography on silica gel eluting with a gradient of EtOAc(100-90%)/Et3N(0-5%)/MeOH(0-5%).

reactant | Sodium hydride | [H-].[Na+]
reactant | 1-(2-Hydroxyethyl)pyrrolidine | 2.0 mmol, 0.23 mL | OCCN1CCCC1 | C6H13NO
reactant | 3-Bromo-4-fluorophenyl 6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl ketone | COC=1C=CC2=C(SC(=C2C(=O)C2=CC(=C(C=C2)F)Br)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C28H25BrFNO3S
reactant | water | 25 mL | O | H2O
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-[3-Bromo-4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-6-hydroxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene Dioxalate Hydrate | 135 mg, 10% yield | O.C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.BrC=1C=C(CC=2C3=C(SC2C2=CC=C(C=C2)OCCN2CCCC2)C=C(C=C3)O)C=CC1OCCN1CCCC1 | InChI=1S/C33H37BrN2O3S.2C2H2O4.H2O/c34-30-22-24(5-12-31(30)39-20-18-36-15-3-4-16-36)21-29-28-11-8-26(37)23-32(28)40-33(29)25-6-9-27(10-7-25)38-19-17-35-13-1-2-14-35;2*3-1(4)2(5)6;/h5-12,22-23,37H,1-4,13-21H2;2*(H,3,4)(H,5,6);1H2
